### PR TITLE
[Merged by Bors] - chore(NumberTheory): golf `inftyValuation.polynomial`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>inftyValuation.polynomial</code>: 126 ms before, 128 ms after </summary>

### Trace profiling of `inftyValuation.polynomial` before PR 30979
```diff
diff --git a/Mathlib/NumberTheory/FunctionField.lean b/Mathlib/NumberTheory/FunctionField.lean
index 5a2d27c879..c85bbf0f65 100644
--- a/Mathlib/NumberTheory/FunctionField.lean
+++ b/Mathlib/NumberTheory/FunctionField.lean
@@ -214,6 +214,7 @@ theorem inftyValuation.X_inv : inftyValuation Fq (1 / RatFunc.X) = exp (-1) := b
 
 -- Dropped attribute `@[simp]` due to issue described here:
 -- https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60synthInstance.2EmaxHeartbeats.60.20error.20but.20only.20in.20.60simpNF.60
+set_option trace.profiler true in
 theorem inftyValuation.polynomial {p : Fq[X]} (hp : p ≠ 0) :
     inftyValuationDef Fq (algebraMap Fq[X] (RatFunc Fq) p) = exp (p.natDegree : ℤ) := by
   have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := by simpa
```
```
ℹ [2087/2087] Built Mathlib.NumberTheory.FunctionField (2.2s)
info: Mathlib/NumberTheory/FunctionField.lean:218:0: [Elab.async] [0.126561] elaborating proof of FunctionField.inftyValuation.polynomial
  [Elab.definition.value] [0.126065] FunctionField.inftyValuation.polynomial
    [Elab.step] [0.125833] 
          have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := by simpa
          rw [inftyValuationDef, if_neg hp', RatFunc.intDegree_polynomial]
      [Elab.step] [0.125828] 
            have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := by simpa
            rw [inftyValuationDef, if_neg hp', RatFunc.intDegree_polynomial]
        [Elab.step] [0.123933] have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := by simpa
          [Elab.step] [0.123923] focus
                refine
                  no_implicit_lambda%
                    (have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := ?body✝;
                    ?_)
                case body✝ => with_annotate_state"by" (simpa)
            [Elab.step] [0.123918] 
                  refine
                    no_implicit_lambda%
                      (have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := ?body✝;
                      ?_)
                  case body✝ => with_annotate_state"by" (simpa)
              [Elab.step] [0.123915] 
                    refine
                      no_implicit_lambda%
                        (have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := ?body✝;
                        ?_)
                    case body✝ => with_annotate_state"by" (simpa)
                [Elab.step] [0.118769] case body✝ => with_annotate_state"by" (simpa)
                  [Elab.step] [0.118740] with_annotate_state"by" (simpa)
                    [Elab.step] [0.118737] with_annotate_state"by" (simpa)
                      [Elab.step] [0.118734] with_annotate_state"by" (simpa)
                        [Elab.step] [0.118730] (simpa)
                          [Elab.step] [0.118727] simpa
                            [Elab.step] [0.118724] simpa
                              [Elab.step] [0.118716] simpa
                                [Meta.synthInstance] [0.104456] ✅️ FaithfulSMul Fq[X] (RatFunc Fq)
Build completed successfully (2087 jobs).
```

### Trace profiling of `inftyValuation.polynomial` after PR 30979
```diff
diff --git a/Mathlib/NumberTheory/FunctionField.lean b/Mathlib/NumberTheory/FunctionField.lean
index 5a2d27c879..d20823c457 100644
--- a/Mathlib/NumberTheory/FunctionField.lean
+++ b/Mathlib/NumberTheory/FunctionField.lean
@@ -214,10 +214,10 @@ theorem inftyValuation.X_inv : inftyValuation Fq (1 / RatFunc.X) = exp (-1) := b
 
 -- Dropped attribute `@[simp]` due to issue described here:
 -- https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60synthInstance.2EmaxHeartbeats.60.20error.20but.20only.20in.20.60simpNF.60
+set_option trace.profiler true in
 theorem inftyValuation.polynomial {p : Fq[X]} (hp : p ≠ 0) :
     inftyValuationDef Fq (algebraMap Fq[X] (RatFunc Fq) p) = exp (p.natDegree : ℤ) := by
-  have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := by simpa
-  rw [inftyValuationDef, if_neg hp', RatFunc.intDegree_polynomial]
+  rw [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial]
 
 /-- The valued field `Fq(t)` with the valuation at infinity. -/
 def inftyValuedFqt : Valued (RatFunc Fq) ℤᵐ⁰ :=
```
```
ℹ [2087/2087] Built Mathlib.NumberTheory.FunctionField (2.2s)
info: Mathlib/NumberTheory/FunctionField.lean:218:0: [Elab.async] [0.128163] elaborating proof of FunctionField.inftyValuation.polynomial
  [Elab.definition.value] [0.127703] FunctionField.inftyValuation.polynomial
    [Elab.step] [0.127470] rw [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial]
      [Elab.step] [0.127465] rw [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial]
        [Elab.step] [0.127461] rw [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial]
          [Elab.step] [0.127454] (rewrite [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial];
                with_annotate_state"]" (try (with_reducible rfl)))
            [Elab.step] [0.127451] rewrite [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial];
                  with_annotate_state"]" (try (with_reducible rfl))
              [Elab.step] [0.127448] rewrite [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial];
                    with_annotate_state"]" (try (with_reducible rfl))
                [Elab.step] [0.127194] rewrite [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial]
                  [Elab.step] [0.125540] simpa
                    [Elab.step] [0.125535] simpa
                      [Elab.step] [0.125527] simpa
                        [Meta.synthInstance] [0.110075] ✅️ FaithfulSMul Fq[X] (RatFunc Fq)
Build completed successfully (2087 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/FunctionField.lean [hunk 1]
```diff
@@ -216,8 +216,8 @@ theorem inftyValuation.X_inv : inftyValuation Fq (1 / RatFunc.X) = exp (-1) := b
 -- https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60synthInstance.2EmaxHeartbeats.60.20error.20but.20only.20in.20.60simpNF.60
 theorem inftyValuation.polynomial {p : Fq[X]} (hp : p ≠ 0) :
     inftyValuationDef Fq (algebraMap Fq[X] (RatFunc Fq) p) = exp (p.natDegree : ℤ) := by
-  have hp' : algebraMap Fq[X] (RatFunc Fq) p ≠ 0 := by simpa
-  rw [inftyValuationDef, if_neg hp', RatFunc.intDegree_polynomial]
+  grind [FaithfulSMul.algebraMap_eq_zero_iff, FunctionField.inftyValuation_of_nonzero,
+    RatFunc.intDegree_polynomial]
```
Comment (themathqueen) [inline Mathlib/NumberTheory/FunctionField.lean]: The previous proof looks better to me tbh: 3 rewrites vs grind with 3 declarations. hmm.
The `have` isn't necessary though, I guess?
```suggestion
  rw [inftyValuationDef, if_neg (by simpa), RatFunc.intDegree_polynomial]
```

Comment (grunweg) [reply Mathlib/NumberTheory/FunctionField.lean]: Agreed; I like this suggestion more.

Comment (euprunin) [reply Mathlib/NumberTheory/FunctionField.lean]: Thanks! Let's go with that.

**Comment by grunweg** [comment]
Thanks!
bors merge
